Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
erythromycin base
 
Attending: ___.
 
Chief Complaint:
lower GI bleed
 
Major Surgical or Invasive Procedure:
Colonoscopy with clipping and biopsies

 
History of Present Illness:
___ S/P colonoscopy with polypetcomy ___, who
is a transfer from ___ for rectal bleeding. 
patient reports that she had a colonoscopy with polypectomy on
the ___. He was found to have a large polyp in the cecum and
underwent a polypectomy with 2 clips. The following day she had
some dark bowel movements, but these improved. However, on the
day of admission patient started having bloody bowel movements.
She reports that these were associated with some cramping in her
lower stomach, and seemed to happen every time she stood up.

She initially presented to the ___ emergency department. 
There she was noted to have a hemoglobin of 12.4.  CTA showed
active arterial extravasation close to the site of her
polypectomy. She was transferred to ___ for ___
embolization.

In the ED:  vital signs were notable for: T 98.5, HR 110, BP 
155/91,
RR 16, 100% RA Exam notable for:
General: Unwell appearing ___ female in no acute
distress.
Abd: Soft, mildly tender to palpation, no distention. Ext: no
edema, no evidence of trauma, no joint swelling or effusion. 

Labs were notable for:
- CBC: WBC 14.9 (88%n), hgb 11.7, plt 312
- repeat hgb 11.7 -> 10.7

- Lytes:
143 / 109 / 12     AGap=12 
------------- 115 
4.1 \ 22 \ 0.4 

- lactate 1.6

___ was consulted given concern for active arterial bleed on CTA.
A mesenteric angiogram was done showing no evidence of active
extravasation on superior mesenteric, sub selective right colic,
and ileocolic arteriograms in the area of concern near the clip
in the cecum seen on the recent CT. 
 
Upon arrival to the floor, patient recounts history as above. 
She notes that she has stopped having bloody bowel movements. 
Currently has no pain.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
Depression
Season Allergies
 
Social History:
___
Family History:
Reports strong family history of colon cancer
 
Physical Exam:
ADMISSION EXAM:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Right-sided inguinal site with dressing c/d/I. No pain to
palpation surrounding site, and no hematoma. Distal pulses
palpable. 
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
No change from above
 
Pertinent Results:
___ 02:24PM BLOOD WBC-14.9* RBC-3.94 Hgb-11.7 Hct-35.3 
MCV-90 MCH-29.7 MCHC-33.1 RDW-12.8 RDWSD-41.9 Plt ___
___ 06:35AM BLOOD WBC-11.9* RBC-3.83* Hgb-11.0* Hct-34.6 
MCV-90 MCH-28.7 MCHC-31.8* RDW-13.2 RDWSD-43.7 Plt ___
___ 06:35AM BLOOD WBC-10.5* RBC-3.52* Hgb-10.5* Hct-31.8* 
MCV-90 MCH-29.8 MCHC-33.0 RDW-13.2 RDWSD-43.4 Plt ___
___ 02:24PM BLOOD Glucose-115* UreaN-12 Creat-0.4 Na-143 
K-4.1 Cl-109* HCO3-22 AnGap-12
___ 06:35AM BLOOD Glucose-100 UreaN-8 Creat-0.4 Na-140 
K-3.4* Cl-103 HCO3-24 AnGap-13
___ 02:24PM BLOOD Calcium-8.2* Phos-2.5* Mg-1.8
___ 06:35AM BLOOD Calcium-8.7 Phos-3.5 Mg-1.9

___ CTA (___)
Impression:
Adjacent to clip and cecum presumably from recent reported
polypectomy, there is a blush of arterial contrast measuring
approximately 6 mm, with surrounding hyperdensity consistent 
with
hemorrhage on arterial and delayed phase sequences.
Multiple nonobstructive punctate left renal calculi, an
additional 4 mm calculus in the left renal pelvis.  No
hydronephrosis
Additional chronic/incidental nonemergent findings as summarized
above.

___ ___ mesenteric angiogram
IMPRESSION: Successful mesenteric angiogram without evidence of
active extravasation in the right colon. 

Colonoscopy: 
1) Cautery ulcer with stigmata of recent bleeding, clip placed
2) Polypectomy
3) Additional polyploid tissue adjacent to site of previous 
polypectomy

Recommend ___ colonoscopy in ___ ___

DISCHARGE LABS: 
___ 06:35AM BLOOD WBC-7.9 RBC-3.40* Hgb-9.8* Hct-31.0* 
MCV-91 MCH-28.8 MCHC-31.6* RDW-12.9 RDWSD-42.6 Plt ___
___ 06:35AM BLOOD Glucose-96 UreaN-9 Creat-0.3* Na-143 
K-3.9 Cl-104 HCO3-25 AnGap-14
___ 06:35AM BLOOD Calcium-8.8 Phos-3.7 Mg-2.0
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
- ___ results of colonscopy biopsy
- will ___ for repeat colonoscopy in 6 months
- repeat CBC with PCP at ___ visit

___ y/o F with PMhx of Depression and strong fam hx of colon 
cancer underwent OSH colonoscopy with polypectomy and p/w 
profuse lower GIB concerning for post polypectomy bleed. Pt was 
transferred due to active extravasation seen on ___. ___ 
performed mesenteric angiogram without any evidence of bleeding. 
Pt was seen by GI and underwent colonoscopy prep with passage of 
bloody stools though stable hgb. Colonoscopy revealed a cautery 
ulcer with stigmata of recent bleeding that was clipped, 
additional polypectomy and a polyploid appearing lesion that 
will need follow up. Pt was monitored post procedure and 
advanced a diet without any evidence of ongoing bleeding. 
Biopsies from the colonoscopy were pending at discharge and GI 
is currently scheduling a follow up colonoscopy to re-evaluate 
the polyploid appearing tissue near the previous 
polypectomy/bleeding site. Pt was discharged with a hemoglobin 
of 9.8 and has PCP follow up on ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 25 mg PO DAILY 
2. Loratadine 10 mg PO DAILY:PRN allergies 

 
Discharge Medications:
1.  Loratadine 10 mg PO DAILY:PRN allergies  
2.  Sertraline 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Post polypectomy bleeding
Acute blood loss anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with bleeding after colonoscopy with polyp 
removal and underwent an angiogram that did not reveal any 
active bleeding. You were seen by gastroenterology and underwent 
another colonoscopy that showed an ulcerated lesion next to the 
previous polypectomy site that required additional clipping. 
Another small polyp was removed and biopsies were obtained, the 
pathology is currently pending. Our GI team would like you to 
have a follow up colonoscopy in a few months to re-examen a 
polyploid area.   

After the procedure, you were monitored and fond not to have any 
signs of bleeding. Your hemoglobin level was reassuring. You are 
safe to go home, but keep in mind to monitor for any signs of 
bleeding

Best wishes from your team at ___
 
Followup Instructions:
___